US06706717B2
B. 3-[[2-[[(1,1-Dimethylethoxy)carbonyl]amino]thiazol-5-yl]thio]benzoic acid methyl ester
Di-t-butylcarbonate (4.36 g, 20 mmol) was added to a stirred solution of 2-amino-5-[(3-carbomethoxyphenyl)thio]thiazole (1.33 g, 5 mmol) and 4-N,N-dimethylaminopyridine (62 mg, 0.5 mmol) in THF (120 mL). The solution was stirred at rt. for 6 h and concentrated. The residue was purified using flash column chromatography on silica gel. Elution with 10% EtOAc in hexanes followed by 25% EtOAc in hexanes afforded a mixture of the titled compound and the corresponding bis(tert-butoxycarbonyl)amino adduct (1.8 g) as an oil.

reactant | Di-t-butylcarbonate | 20 mmol, 4.36 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | 2-amino-5-[(3-carbomethoxyphenyl)thio]thiazole | 5 mmol, 1.33 g | NC=1SC(=CN1)SC1=CC(=CC=C1)C(=O)OC | C11H10N2O2S2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 3-[[2-[[(1,1-Dimethylethoxy)carbonyl]amino]thiazol-5-yl]thio]benzoic acid methyl ester | COC(C1=CC(=CC=C1)SC1=CN=C(S1)NC(=O)OC(C)(C)C)=O | C16H18N2O4S2
